US07238689B2
5.4 g of paraformaldehyde (180.2 mmoles in terms of formaldehyde) and 20 ml of concentrated hydrochloric acid were added to a solution of 20.0 g (90.1 mmoles) of 1-tert-butyl-5-methoxy-3-trifluoromethyl-1H-pyrazole dissolved in 90 ml of acetic acid. The mixture was stirred at 60° C. for 30 minutes to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water, followed by extraction with diisopropyl ether. The resulting organic layer was washed with water and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein, to obtain 21.7 g (yield: 89.0%) of 1-tert-butyl-4-chloromethyl-5-methoxy-3-trifluoromethyl-1H-pyrazole.

reactant | paraformaldehyde | 180.2 mmoles, 5.4 g | C=O | CH2O
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | 1-tert-butyl-5-methoxy-3-trifluoromethyl-1H-pyrazole | 90.1 mmoles, 20.0 g | C(C)(C)(C)N1N=C(C=C1OC)C(F)(F)F | C9H13F3N2O
reactant | water | O | H2O
reactant | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | 1-tert-butyl-4-chloromethyl-5-methoxy-3-trifluoromethyl-1H-pyrazole | 21.7 g, yield: 89.0% | C(C)(C)(C)N1N=C(C(=C1OC)CCl)C(F)(F)F | C10H14ClF3N2O
